US07476666B2
Step 1: Bromo(phenyl)acetonitrile
To a solution of benzyl cyanide (4.93 mL, 42.7 mmol) in CCl4 (275 mL) were added dibenzoyl peroxide (517 mg, 2.13 mmol) and N-bromosuccinimide (9.12 g, 51.2 mmol). The reaction mixture was heated to reflux and stirred for 5 hours and concentrated in vacuo to a volume of 100 mL. The solution was partitioned between CHCl3 and saturated NaHCO3 solution, and the aqueous layer was extracted with several portions of CHCl3. The combined organic layers were dried over Na2SO4 and concentrated in vacuo to afford a yellow oil. Purification was achieved by flash column chromatography on silica gel using a gradient elution of 0-20% EtOAc/hexanes. Collection and concentration of the appropriate fractions yielded the title compound as a pale yellow oil. 1H NMR (400 MHz, d6-DMSO) δ 7.61-7.58 (m, 2H), 7.53-7.45 (m, 3H), 6.59 (s, 1H).

reactant | benzyl cyanide | 42.7 mmol, 4.93 mL | C(C1=CC=CC=C1)C#N | C8H7N
reactant | dibenzoyl peroxide | 2.13 mmol, 517 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 51.2 mmol, 9.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 275 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Bromo(phenyl)acetonitrile | BrC(C#N)C1=CC=CC=C1 | C8H6BrN
